US08445501B2
4-{[4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxymethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester
Starting from 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxymethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A84) and commercially available 4-amino-piperidine-1-carboxylic acid the title compound is obtained as colorless foam.

reactant | 4-(2-cyclopropylmethoxy-5-fluoro-4-methoxymethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C(=C1)OCOC)F)C=1C2=C(N=CN1)C(=CN2)C(=O)O | C19H18FN3O5
reactant | 4-amino-piperidine-1-carboxylic acid | NC1CCN(CC1)C(=O)O | C6H12N2O2
product | 4-{[4-(2-Cyclopropylmethoxy-5-fluoro-4-methoxymethoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OCOC)OCC2CC2 | C29H36FN5O6
